US05470858
8-[3-[(p-carboxy)-phenoxy]-2-oxo-propylthio]-adenine
From 8-mercapto-adenine and p-(2-oxo,3-bromo propyloxy)-benzoic acid.

reactant | 8-mercapto-adenine | SC1=NC2=NC=NC(=C2N1)N | C5H5N5S
reactant | p-(2-oxo,3-bromo propyloxy)-benzoic acid | O=C(COC1=CC=C(C(=O)O)C=C1)CBr | C10H9BrO4
product | 8-[3-[(p-carboxy)-phenoxy]-2-oxo-propylthio]-adenine | C(=O)(O)C1=CC=C(OCC(CSC2=NC3=NC=NC(=C3N2)N)=O)C=C1 | C15H13N5O4S
